* Model of NTC ellement
* block symbol definitions
.SUBCKT NTC_R 1 2  R0={R0} B={B}
*.PARAM R0=10000  resistance @25degree
*.PARAM B=3977  material constant
.PARAM TK=273.15
.PARAM T0=25
RP 1 2 1G
B1 1 2  I=V(1,2)/{R0*exp(B*(1/(TEMP+TK)-1/(T0+TK)))}
.ENDS

