*------------------------------------------------------------------------------------

*FAIRCHILD      CASE: TO-220      PID: FQP19N20

*NOV-18-2000 CREATION

*FQD7P20 200V P-CHANNEL DMOSFET ELECTRICAL PARAMETERS

*------------------------------------------------------------------------------------

.SUBCKT  FQD7P20   20  10  30

Rg     10    1    1

M1      2    1    3    3    DMOS    L=1u   W=1u

.MODEL DMOS PMOS (VTO={-3.9*{-0.00088*TEMP+1.022}} KP={4.4*{-0.00012*TEMP+1.003}}

+ THETA=0.04    VMAX=1.52E5   LEVEL=3)

Cgs 1   3   680P

Rd  20  4   236m   TC=0.00083

Dds 4   3   DDS

.MODEL DDS D(BV={200*{0.0008*TEMP+0.98}}  M=0.5      CJO=115p   VJ=0.8)

Dbody   20  3   DBODY

.MODEL DBODY D(IS=1.2E-13    N=1.05     RS=96.3m    EG=1.17    TT=180n)

Ra 4    2   110m   TC=0.00083

Rs 3    5   11m

Ls 5    30  1.0n

M2 1    8   6    6   INTER

E2 8    6   4    1   2

.MODEL INTER PMOS (VTO=0   KP=10   LEVEL=1)

Cgdmax  7  4    925P

Rcgd    7  4    10meg

Dgd     4  6    DGD

Rdgd    4  6    10meg

.MODEL DGD D(M=0.74   CJO=925P    VJ=0.62)

M3      7  9  1  1  INTER

E3      9  1  4  1  -2

.ENDS FQD7P20

*-------------------------------------------------------------------------------------

*FAIRCHILD      CASE: D-PAK      PID: FQD7P20

*NOV-18-2000 CREATION



.SUBCKT irf7404 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Oct  2, 03
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-1.2434 LAMBDA=0.0256021 KP=28.9075
+CGSO=1.23648e-05 CGDO=1.44665e-06
RS 8 3 0.0203887
D1 1 3 MD
.MODEL MD D IS=2.01933e-08 RS=0.0282171 N=1.5 BV=20
+IBV=0.00025 EG=1 XTI=4 TT=1e-07
+CJO=1.47404e-09 VJ=0.5 M=0.379539 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.00560309
RG 2 7 6
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.30063e-09 VJ=0.5 M=0.850313 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.89191e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf7404

*June 23, 2010
*Doc. ID: 90116, Rev. A
*File Name: irfp9140n_PS.txt and irfp9140n _PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT irfp9140n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May  9, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.75746 LAMBDA=0 KP=7.5033
+CGSO=1.11719e-05 CGDO=1e-11
RS 8 3 0.0445286
D1 1 3 MD
.MODEL MD D IS=5.37934e-10 RS=0.00744163 N=1.34043 BV=300
+IBV=0.00025 EG=1.2 XTI=4 TT=0
+CJO=7.49036e-10 VJ=2.13968 M=0.626602 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0420438
RG 2 7 6.85564
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.47443e-09 VJ=1.18831 M=0.76184 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.59679e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irfp9140n

*==============================================
*P-EMOS 3T pinout: D,G,S
*Copyright (c) 1996 MicroCode Engineering, Inc.

*IRF9510  MCE  4-2-96
*100V  4A  1.2 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9510  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .569
RS  30  3  31M
RG  20  2  37.5
CGS  2  3  182P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  231P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=208K ETA=2M VTO=-3 KP=.471)
.MODEL DCGD D (CJO=231P VJ=.6 M=.68)
.MODEL DSUB D (IS=16.6N N=1.5 RS=1.18 BV=100 CJO=327P VJ=.8 M=.42 TT=82N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9510

*IRF9520  MCE  4-2-96
*100V  6.8A  .6 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9520  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .284
RS  30  3  16M
RG  20  2  22
CGS  2  3  345P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  577P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=208K ETA=2M VTO=-3 KP=1.1)
.MODEL DCGD D (CJO=577P VJ=.6 M=.68)
.MODEL DSUB D (IS=28.2N N=1.5 RS=.816 BV=100 CJO=537P VJ=.8 M=.42 TT=98N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9520

*IRF9530
*Harris P-ch. BVdss=100V Ids=12A Rds(on)=.3 ohms: D G S
*HAR 100V  12A  .3 ohm HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9530 10 20 30
M1   4  1  5  5  DMOS L=1U W=1U
RG  20  1  21.4
RD  10  4  .117
RDS  4  5  2.54MEG
CGD  7  4  787P
RCG  7  4  10MEG
MCG  7  9  1  1  SW
ECG  9  1  1  4  1
DGD  6  1  DCGD
MDG  6  8  4  4  SW
EDG  8  4  4  1  1
DDS  4  5  DSUB
LS   5 30  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=6.6MEG THETA=220M VTO=-3.2
+ KP=3.2 RS=8.25M IS=504F CGSO=400U)
.MODEL SW   PMOS (LEVEL=3 VTO=0 KP=20)
.MODEL DCGD D (CJO=787P M=.5 VJ=.41)
.MODEL DSUB D (IS=504F RS=.513 BV=100 IBV=.001
+ VJ=.8 M=.4 CJO=802P TT=432N)
.ENDS IRF9530

*IRF9540  MCE  4-2-96
*100V  19A  .2 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9540  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  94M
RS  30  3  6M
RG  20  2  17.6
CGS  2  3  1.26N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  1.79N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=208K ETA=2M VTO=-3 KP=3.95)
.MODEL DCGD D (CJO=1.79N VJ=.6 M=.68)
.MODEL DSUB D (IS=78.9N N=1.5 RS=.223 BV=100 CJO=1.93N VJ=.8 M=.42 TT=130N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9540

*IRF9610  MCE  4-2-96
*200V  1.8A  3 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9610  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  1.42
RS  30  3  76M
RG  20  2  83.3
CGS  2  3  155P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  192P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=416K ETA=2M VTO=-3 KP=.869)
.MODEL DCGD D (CJO=192P VJ=.6 M=.68)
.MODEL DSUB D (IS=7.47N N=1.5 RS=2.8 BV=200 CJO=150P VJ=.8 M=.42 TT=240N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9610

*IRF9620  MCE  4-2-96
*200V  3.5A  1.5 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9620  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .711
RS  30  3  38.5M
RG  20  2  42.8
CGS  2  3  320P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  385P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=416K ETA=2M VTO=-3 KP=.643)
.MODEL DCGD D (CJO=385P VJ=.6 M=.68)
.MODEL DSUB D (IS=14.5N N=1.5 RS=1.78 BV=200 CJO=301P VJ=.8 M=.42 TT=300N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9620

*IRF9630  MCE  4-2-96
*200V  6.5A  .8 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9630  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .379
RS  30  3  21M
RG  20  2  23
CGS  2  3  660P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  513P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=416K ETA=2M VTO=-3 KP=1.94)
.MODEL DCGD D (CJO=513P VJ=.6 M=.68)
.MODEL DSUB D (IS=26.9N N=1.5 RS=.885 BV=200 CJO=688P VJ=.8 M=.42 TT=200N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9630

*IRF9640  MCE  4-2-96
*200V  11A  .5 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9640  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .236
RS  30  3  13.5M
RG  20  2  16.3
CGS  2  3  1.11N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  1.04N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=416K ETA=2M VTO=-3 KP=2.46)
.MODEL DCGD D (CJO=1.04N VJ=.6 M=.68)
.MODEL DSUB D (IS=45.6N N=1.5 RS=.386 BV=200 CJO=1.24N VJ=.8 M=.42 TT=250N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9640

*IRF9Z14  MCE  4-2-96
*60V  6.7A  .5 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9Z14  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .236
RS  30  3  13.5M
RG  20  2  45.6
CGS  2  3  239P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  398P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=125K ETA=2M VTO=-3 KP=.661)
.MODEL DCGD D (CJO=398P VJ=.6 M=.68)
.MODEL DSUB D (IS=27.8N N=1.5 RS=.709 BV=60 CJO=598P VJ=.8 M=.42 TT=80N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9Z14

*IRF9Z24  MCE  4-2-96
*60V  11A  .28 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9Z24  10 20 40
*     TERMINALS:  D  G  S
*  60 Volt  11 Amp  .28 ohm  P-Channel Power MOSFET  04-02-1996
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .132
RS  30  3  8M
RG  20  2  13.6
CGS  2  3  505P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  834P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=125K ETA=2M VTO=-3 KP=.4)
.MODEL DCGD D (CJO=834P VJ=.6 M=.68)
.MODEL DSUB D (IS=45.6N N=1.5 RS=.504 BV=60 CJO=1.26N VJ=.8 M=.42 TT=100N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9Z24

*IRF9Z34  MCE  4-2-96
*60V  18A  .14 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9Z34  10 20 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  65.5M
RS  30  3  4.5M
RG  20  2  24.5
CGS  2  3  1N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  1.28N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=125K ETA=2M VTO=-3 KP=4.27)
.MODEL DCGD D (CJO=1.28N VJ=.6 M=.68)
.MODEL DSUB D (IS=74.7N N=1.5 RS=.308 BV=60 CJO=2.23N VJ=.8 M=.42 TT=100N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9Z34
