*
*Zetex BS250P Spice Model v1.0 Last Revised 19/3/03
*
.SUBCKT BS250P 3 4 5
*                D G S
M1 3 2 5 5 MBS250
RG 4 2 160
RL 3 5 1.2E8
C1 2 5 47E-12
C2 3 2 10E-12
D1 3 5 DBS250
*
.MODEL MBS250 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CBD=105E-12 PB=1 LAMBDA=1.2E-2
.MODEL DBS250 D IS=2E-13 RS=0.309
.ENDS BS250P
*
*$
*
*                (c)  2005 Zetex Semiconductors plc
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex Semiconductors plc (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved. The models
*   are believed accurate but  no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Zetex PLC, its distributors
*   or agents.
*
*   Zetex Semiconductors plc, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL


*ZVP2106 ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  3/86
*ZTX  60V 280mA pkg:TO-92
.SUBCKT ZVP2106 3 4 5
M1 3 2 5 5 P2106 L=1 W=1
RG 4 2 160
RL 3 5 1.2E8
D1 3 5 DP2106
.MODEL P2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CGSO=47E-12 CGDO=10E-12 CBD=105E-12 PB=1 LAMBDA=1.2E-2
.MODEL DP2106 D IS=2E-13 RS=0.309
.ENDS ZVP2106

*ZVP2106G ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  3/86
*ZTX  60V 450mA pkg:SOT-223
.SUBCKT ZVP2106G 3 4 5
M1 3 2 5 5 P2106 L=1 W=1
RG 4 2 160
RL 3 5 1.2E8
D1 3 5 DP2106
.MODEL P2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CGSO=47E-12 CGDO=10E-12 CBD=105E-12 PB=1 LAMBDA=1.2E-2
.MODEL DP2106 D IS=2E-13 RS=0.309
.ENDS ZVP2106G

*ZVP3306 ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision 12/85
*ZTX  60V 160mA pkg:TO-92
.SUBCKT ZVP3306 3 4 5
M1 3 2 5 5 P3306M L=1 W=1
RG 4 2 252
RL 3 5 1.2E8
D1 3 5 P3306D
.MODEL P3306M PMOS VTO=-2.875 RS=5.227 RD=7.524 IS=1E-15 KP=.145
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1 LAMBDA=6.67E-3
.MODEL P3306D D IS=5E-12 RS=.768
.ENDS ZVP3306

*   Copyright notice for all models labeled "ZETEX":
*
*                          (C)  1992 ZETEX PLC
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex PLC ("Zetex").  They  are  supplied  free of charge by
*   Zetex for the purpose of research and design and may be used or
*   copied intact  (including this notice)  for  that purpose only.
*   All other rights are reserved. The models are believed accurate
*   but  no condition  or warranty  as to their  merchantability or
*   fitness for purpose is given and no liability in respect of any
*   use is accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP  U.K.
