* C:\Program Files\LTC\SwCADIII\examples\LtSpicePlus\am_mod\AM_source2.asc
.subckt soustracteur V+ V- Eps
B1 Eps 0 V=V(V+)-V(V-)
R1 V+ 0 1Meg
R2 V- 0 1Meg
.end
