**********************************swith ideal ***********************
* come from canonical cell.asc

.subckt DSW a p c d
Bi a x I=V(n)*I(Vc)
Bv x p V=V(n)*V(a,p)
Vc x c 0 ; current sense
Bd 0 n I=limit(0,1-1u,V(d))
Cd 0 n 1n Rpar=1
.ends DSW
